US03948971
A solution of 0.67 mM of the hydroxysuccinimide ester of N-(1-methylcyclobutyloxycarbonyl) phenylalanine and 0.70 mM of alanine methyl ester hydrochloride in 10 ml. of methylene chloride is treated with triethylamine until the pH is adjusted to 7.6-8.0. Reaction is stirred 6 hours and the reaction mixture is washed according to the following procedure: one time with dilute sodium bicarbonate solution; once with 50% saturated sodium chloride solution; once with 0.2 N sulfuric acid saturated with sodium sulfate; and two times with 50% saturated sodium chloride solution. The resulting material is dried over sodium sulfate and the washing procedure repeated. The solvent is removed in vacuo to afford N-(1-methylcyclobutyloxycarbonyl) phenylalanine-alanine methyl ester.

reactant | N-(1-methylcyclobutyloxycarbonyl) phenylalanine | CC1(CCC1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C15H19NO4
reactant | alanine methyl ester hydrochloride | 0.70 mM | Cl.COC([C@@H](N)C)=O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(1-methylcyclobutyloxycarbonyl) phenylalanine alanine methyl ester | CC1(CCC1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC([C@@H](N)C)=O | InChI=1S/C15H19NO4.C4H9NO2/c1-15(8-5-9-15)20-14(19)16-12(13(17)18)10-11-6-3-2-4-7-11;1-3(5)4(6)7-2/h2-4,6-7,12H,5,8-10H2,1H3,(H,16,19)(H,17,18);3H,5H2,1-2H3/t12-;3-/m00/s1
